US06566379B1
3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-[(2-guanidinooxyethyl)aminocarbonylmethyl]-2-pyridinone hydrochloride
3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(carboxymethyl)-2-pyridinone (0.71 g, 1.95 mmol), as prepared in the preceding step, Castro's reagent (BOP, 0.905 g, 2.05 mmol), and [N,N′-di(tert-butoxycarbonyl)] 2-aminoethoxyguanidine (0.710 g, 2.00 mmol), as prepared in step 4 of Example 2, were dissolved in methylene chloride (40 mL) and reacted with triethylamine (0.75 mL, 5.4 mmol) at ambient temperature for 3 days. After concentration in vacuo, the crude product was dissolved in methylene chloride, washed with 10% aqueous citric acid, saturated NaHCO3, and brine, dried over Na2SO4, and filtered. The evaporated filtrate was purified by flash column chromatography (5% methanol in methylene chloride) giving the title compound as a light yellow solid (0.70 g, 54%). 1H NMR (300 MHz, CDCl3) δ9.15 (s, 1H), 8.34 (br t, 1H, J=5.0 Hz), 7.67 (m, 3H), 7.59 (s, 1H), 7.40 (d, 1H, J=7.9 Hz), 7.34 (m, 2H), 6.06 (d, 1H, J=7.9 Hz), 4.86 (s, 2H), 4.09 (m, 2H), 3.58 (dd, 2H, J=8.8 Hz, 5.0 Hz), 2.86 (m, 1H), 2.38 (s, 3H), 1.52 (s, 9H), 1.47 (s, 9H), 1.20 (s, 3H), 1.17 (s, 3H).

reactant | 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(carboxymethyl)-2-pyridinone | 1.95 mmol, 0.71 g | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C(C)C)CC(=O)O)=O | C17H20N2O5S
reactant | Castro's reagent | 2.05 mmol, 0.905 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | [N,N′-di(tert-butoxycarbonyl)] 2-aminoethoxyguanidine | 2.00 mmol, 0.710 g | C(C)(C)(C)OC(=O)N(C(=N)NC(=O)OC(C)(C)C)OCCN | C13H26N4O5
reactant | triethylamine | 5.4 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-[(2-guanidinooxyethyl)aminocarbonylmethyl]-2-pyridinone hydrochloride | 0.70 g, 54% | Cl.CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C(C)C)CC(=O)NCCONC(=N)N)=O | InChI=1S/C20H28N6O5S.ClH/c1-13(2)17-8-7-16(25-32(29,30)15-6-4-5-14(3)11-15)19(28)26(17)12-18(27)23-9-10-31-24-20(21)22;/h4-8,11,13,25H,9-10,12H2,1-3H3,(H,23,27)(H4,21,22,24);1H
